Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with a history of hypertension, glaucoma, 
TIA,
vertigo, and history of ovarian mass presents with as a transfer
for abdominal pain and dizziness and found on CTA to have AAA 
and
was transferred to ___ for vascular surgery evaluation. 

At 2 AM the morning of presentation, the patient noticed acute
onset of ___ cramping abdominal pain and spasming 
after
she went to the bathroom to try to urinate. She reports
lightheadedness and dizziness after the episode worse when
standing. In addition to the cramping, she also felt a 
squeezing,
tearing sensation that radiates to the belly button towards the
left part of her abdomen. She denies any nausea vomiting or
diarrhea, chest pain or shortness of breath. She has no
associated focal neurologic symptoms. She then called an
ambulance and was taken to ___ and she underwent 
a
CT scan of the abdomen. She was noted to have a 4.4 x 4.4 cm
aneurysm in the AP and left eye axes. It was 7.7 centimeters in
length with a contrasted lumen being 4.1 x 2.2 cm. There was no
noted rupture. Of note, ___ CT abdomen/pelvis noted no AAA. 

At ___, the patient was noted to have 800 cc of urine in
her bladder and was subsequent straight cath with relief of her
abdominal pain but continued to have residual pain. In the ED,
the patient was also noted to feel weak tired and fatigued.
Patient became bradycardic into the ___, and hypotensive with
altered mental status. She was then triggered and a bedside
ultrasound was performed that showed AAA without signs of
dissection. Her FAST was negative. Patient's heart rate slowly
improved back to ___ and ___ with return of blood pressure.
Vascular surgery was called to the bedside. A stat CTA was
performed which did not show any leakage, RP bleed, PE. Unclear
whether this was a vasovagal event versus arrhythmia. EKG shows
some ST depressions in II and troponins were negative.

Per review of her ___ chart, the patient has been admitted
multiple times for vertigo.

- In the ED, initial vitals were:  
76 93/58 20 100% 2L NC

- Exam was notable for:  
-Periumbilical and left lower quadrant abdominal pain, with
guarding
-Normal pulses in all 4 extremities

- Labs were notable for:  
___ 08:20AM BLOOD WBC: 6.7 RBC: 4.49 Hgb: 12.3 Hct: 36.8
MCV: 82 MCH: 27.4 MCHC: 33.4 RDW: 14.4 RDWSD: 42.___ 
___ 04:10PM BLOOD Glucose: 128* UreaN: 11 Creat: 0.8 Na: 
135
K: 3.3* Cl: 100 HCO3: 20* AnGap: 15 
___ 04:10PM BLOOD Calcium: 8.2* Phos: 3.0 Mg: 2.1 

- Studies were notable for:  
CTA ABD/PELVIS:
1. 4.2 cm infrarenal abdominal aortic aneurysm which is stable
from the same
day outside hospital CTA. No evidence of dissection or rupture.
No additional
aneurysms are demonstrated.
2. Diverticulosis without diverticulitis.
3. 7 mm pulmonary nodule in the right lower lobe. Please see
___
recommendations below.
4. Multiple corticated deformities of right-sided ribs likely
represent
sequela from prior trauma, seen at the posterior aspect of the
second and
third right ribs and lateral aspects of ribs the third and 
fourth
ribs.
5. Mild retrolisthesis of L2 over L3 and moderate 
anterolisthesis
of L4 over
L5 are most likely degenerative in nature.

Recommendation:
For incidentally detected single solid pulmonary nodule 
measuring
6 to 8 mm, a CT follow-up in 6 to 12 months is recommended in a
low-risk patient, optionally followed by a CT in ___ months. 
In
a high-risk patient, a CT follow-up in 6 to 12 months, and a CT
in ___ months is recommended.

- Vascular were consulted  
___ with dizziness and abdominal discomfort, resolved s/p 
urinary
catheterization with large volume release, and newly appreciated
4.3cm AAA. Difficult to definitively state whether abdominal 
pain
is due to AAA, given urinary retention, constipation, and 
history
of abdominal surgeries. Does not appear to be at imminent risk 
of
rupture, equivocal as to whether may require future repair given
size and patient age. Recommend:

- Admit to medicine for medical optimization and workup given
recurrent episodes of dizziness and vaginal bleeding in the
setting of a hysterectomy
- Vascular surgery will follow inpatient, discuss potential
treatment/monitoring options for AAA

- Patient was given: 
IV Morphine
IV magnesium 
 
On arrival to the floor, the patient reports no longer having 
any
more abdominal pain. She is on 5L of O2 but patient reports no
shortness of breath or cough. O2 was turned off and patient was
satting at 100%. On chart review, it was noted that patient has
bladder cancer. She states she did NOT have bladder cancer but
has had "vaginal" bleeding but has not had vaginal bleeding in
quit some time. 
 

 
Past Medical History:
Hypertension
Glaucoma
Ovarian mass in ___ s/p excision. Per DCIF review, low grade
adenocarcinoma, possibly a variant of endometrioid carcinoma.
Appendectomy (remote)
Hysterectomy ___, ___
 
Social History:
___
Family History:
Non-contributory. No history of vascular disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
VITALS:  ___ 2226 Temp: 98.0 PO BP: 207/80 HR: 66 RR: 20 O2
sat: 100% O2 delivery: 5L 
GENERAL: Alert and interactive. In no acute distress.  
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM. 

NECK: No cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
BACK: No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. Cap refill <2s. No rashes.  
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.  

DISCHARGE PHYSICAL EXAM:  
========================  
PHYSICAL EXAMINATION:  
___ 0742 Temp: 98.1 PO BP: 139/87 R Lying HR: 66 RR:
18 O2 sat: 94% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.  
HEENT: Sclerae anicteric and without injection. MMM. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Slight crackles at bilateral bases. No wheezes, rhonchi 
or
crackles. Equal air movement bilaterally.
BACK: No spinal or CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No edema.
SKIN: Warm. 
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 08:20AM BLOOD WBC-6.7 RBC-4.49 Hgb-12.3 Hct-36.8 MCV-82 
MCH-27.4 MCHC-33.4 RDW-14.4 RDWSD-42.3 Plt ___
___ 08:20AM BLOOD Glucose-120* UreaN-16 Creat-0.7 Na-136 
K-3.5 Cl-98 HCO3-23 AnGap-15
___ 08:20AM BLOOD Calcium-8.9 Phos-2.4* Mg-1.5*
___ 08:20AM BLOOD cTropnT-<0.01
___ 04:10PM BLOOD cTropnT-<0.01
___ 08:28AM BLOOD Lactate-1.1

DISCHARGE LABS
==============
___ 05:29AM BLOOD WBC-6.3 RBC-4.25 Hgb-11.6 Hct-35.9 MCV-85 
MCH-27.3 MCHC-32.3 RDW-14.6 RDWSD-44.7 Plt ___
___ 05:29AM BLOOD Glucose-102* UreaN-18 Creat-0.7 Na-136 
K-3.9 Cl-97 HCO3-25 AnGap-14
___ 05:29AM BLOOD Calcium-9.1 Phos-3.1 Mg-1.9
___ 09:35AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

MICRO
====== 
___ 9:35 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING
=======
___ CTA TORSO
1. 4.2 cm infrarenal abdominal aortic aneurysm which is stable 
from the same day outside hospital CTA.  No evidence of 
dissection or rupture. 
2. Diverticulosis without diverticulitis. 
3. 7 mm pulmonary nodule in the right lower lobe.  Please see 
___ 
recommendations below. 
4. Multiple corticated deformities of right-sided ribs likely 
represent 
sequela from prior trauma, seen at the posterior aspect of the 
second and 
third right ribs and lateral aspects of ribs the third and 
fourth ribs. 
5. Mild retrolisthesis of L2 over L3 and moderate 
anterolisthesis of L4 over L5 are most likely degenerative in 
nature. 
RECOMMENDATION(S): 
For incidentally detected single solid pulmonary nodule 
measuring 6 to 8 mm, a CT follow-up in 6 to 12 months is 
recommended in a low-risk patient, 
optionally followed by a CT in ___ months. In a high-risk 
patient, a CT 
follow-up in 6 to 12 months, and a CT in ___ months is 
recommended. 

 
Brief Hospital Course:
SUMMARY
========
___ yo woman with a history of hypertension, glaucoma, TIA, 
vertigo, and history of ovarian mass presented with abdominal 
pain and dizziness. Transferred from ___ for evaluation of 
AAA noted on CTA, 4.3 cm w/o signs of rupture or dissection so 
no intervention. Course complicated by acute urinary retention 
requiring Foley which resolved.

TRANSITIONAL ISSUES
===================
[] Started simvastatin for abdominal aortic aneurysm
[] Started tamsulosin for urinary retention, follow up symptoms 
and consider discontinuing
[] Follow up for AAA scheduled with vascular surgery in 3 months 

[] Follow up for 7 mm pulmonary nodule on CT scan, consider 
follow up CT scan in ___ months

ACUTE ISSUES
============
# Acute Urinary Retention
Presented with abdominal pain with 700 cc in bladder. She had a 
Foley placed which was removed the next day and she was able to 
void on her own. Started on tamsulosin. Unclear etiology, 
concern for prolapse given history of hysterectomy, also had 
constipation which may have been contributory.

# Hypertension
Initially presented with SBP in 200's in setting of acute 
urinary retention. She was continued on home HCTZ-triamterene 
and BPs subsequently improved, 139/87 at time of discharge.

# Acute hypoxic respiratory failure, resolved
Noted to be hypoxic requiring NRB in the ED. Unclear etiology 
without signs of pneumonia, PE, or pulmonary edema noted on CTA 
chest. Quickly resolved and returned to room air.

# Abdominal Aortic Aneurysm
Noted to have 4.3 cm AAA on CT abdomen without any dissection or 
rupture. Last imaging in ___ without signs of AAA. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 

 
Discharge Medications:
1.  Simvastatin 20 mg PO QPM 
RX *simvastatin 20 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
2.  Tamsulosin 0.4 mg PO DAILY 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth once a day Disp #*14 
Capsule Refills:*0 
3.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis
=================
Acute urinary retention
Abdominal aortic aneurysm
Acute hypoxic respiratory failure, resolved
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WERE YOU IN THE HOSPITAL?  
- You were admitted to the hospital because you were having 
abdominal pain
- You had a CT scan at ___ which showed an aortic 
aneurysm

WHAT HAPPENED WHEN YOU WERE IN THE HOSPITAL?  
- You had difficulty urinating and required straight cath. You 
were started on a medication to help you urinate. 

WHAT SHOULD YOU DO AFTER YOU LEAVE THE HOSPITAL?  
- Continue to take all your medicines as prescribed below. 
- Show up to your appointments as listed below.

We wish you the best!  

Sincerely,  

Your ___ Team
 
Followup Instructions:
___